US08183262B2
3′-[4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-biphenyl-3-sulfonic acid bis-(2-hydroxy-ethyl)-amide
To a cooled (ice-water bath) and stirred mixture of diethanolamine (0.12 g, 1.14 mmol), triethylamine (0.06 ml, 0.42 mmol) and THF (2 ml) was added drop wise a solution of 3′-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-biphenyl-3-sulfonyl chloride (example I.3) (0.21 g, 0.39 mmol) in THF (3 ml). The mixture was allowed to stir at room temperature for 16 h. Purification of the reaction mixture by flash chromatography on silica gel (ethyl acetate/heptane) and crystallization (diethyl ether/hexane) yielded the title compound as a white solid (0.125 g, 53%). MS (ISP) 611.6 [(M+H)+]; mp 111.5° C.

reactant | diethanolamine | 1.14 mmol, 0.12 g | N(CCO)CCO | C4H11NO2
reactant | triethylamine | 0.42 mmol, 0.06 ml | C(C)N(CC)CC | C6H15N
reactant | 3′-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-biphenyl-3-sulfonyl chloride | 0.39 mmol, 0.21 g | FC(C1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C1=CC(=CC=C1)S(=O)(=O)Cl)(F)F | C24H13ClF6N2O2S
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3′-[4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-biphenyl-3-sulfonic acid bis-(2-hydroxy-ethyl)-amide | 0.125 g, 53% | OCCN(S(=O)(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)CCO | C28H23F6N3O4S
